US07910596B2
To a solution of 2,3-dimethylpyrazine (1.33 g, 12.3 mmol) in tetrachloromethane (30 mL) was added N-bromosuccinimide (6.6 g, 37 mmol)) and 2,2′-azobis(2-methylpropionitrile) (0.2 g, 1.2 mmol). After refluxing under nitrogen for 16 h, the mixture was filtered, and washed with tetrachloromethane. The filtrate was concentrated, and the residue was purified on Biotage silica gel cartridge (gradient 2-20% ethyl acetate in hexanes) to yield 2,3-di(bromomethyl)pyrazine. A solution of 2,3-di(bromomethyl)pyrazine (2.0 g, 7.7 mmol) in N,N-dimethylformamide (100 mL) at 0° C. was mixed with a solution of tritylamine (6.0 g, 23.0 mmol) in N,N-dimethylformamide. The resulting mixture was stirred at room temperature for one h, heated at 60° C. for 3 h, and then poured into water and extracted with ethyl acetate (2×200 mL). The organic layers were washed with water, brine, dried over sodium sulfate and concentrated. The residue was purified on Biotage silica gel cartridge (gradient 2-50% ethyl acetate in hexanes) to yield the N-trityl-pyrrolopyrazine. A portion of this product (420 mg, 1.2 mmol) was treated with 4N of hydrochloric acid in methanol for 2 h. After solvent was removed, the residue was purified on Biotage silica gel cartridge (gradient 0-12% methanol containing 1% ammonium hydroxide in dichloromethane) to yield Intermediate 17.

reactant | 2,3-di(bromomethyl)pyrazine | 7.7 mmol, 2.0 g | BrCC1=NC=CN=C1CBr | C6H6Br2N2
reactant | tritylamine | 23.0 mmol, 6.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N | C19H17N
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | N-trityl-pyrrolopyrazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=CN=C2C1=CC=N2 | C25H19N3
